US08536201B2
To a reaction vessel, N-[(1S)-1-(4-bromophenyl)ethyl]cyclopropanecarboxamide (134 mg), 3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidine (211 mg), sodium t-butoxide (96 mg), tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (10 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (18 mg) and toluene (6 ml) were added, and reacted in a microwave reactor (Initiator™, manufactured by Biotage) for 10 minutes at 120° C. Upon the completion of the reaction, ethyl acetate was added and the precipitates were filtered by using silica gel. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to obtain N-[(1S)-1-(4-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropanecarboxamide (269 mg). 1H-NMR (CDCl3) as given in Table 2

reactant | N-[(1S)-1-(4-bromophenyl)ethyl]cyclopropanecarboxamide | 134 mg | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1 | C12H14BrNO
reactant | 3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidine | 211 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CNCC1)C(F)(F)F)(F)F | C13H10F9N
reactant | sodium t-butoxide | 96 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 10 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1S)-1-(4-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}phenyl)ethyl]cyclopropanecarboxamide | 269 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1)C(F)(F)F)(F)F | C25H23F9N2O
